* Z:\mnt\design.r\spice\examples\LTC7132.asc
V1 IN 0 12
C1 0 N001 1µ
C2 N004 N002 .1µ
D1 N001 N002 CMDSH2-3
C3 N006 OUT1 .22µ
R1 N004 N006 931
C5 OUT1 0 330µ x2
R2 OUT1 0 .05
L1 N005 OUT0 .33µ
D2 N001 N003 CMDSH2-3
C8 N007 OUT0 .22µ
C9 OUT0 0 330µ x2
R12 OUT0 0 .06
L2 N004 OUT1 .33µ
XU1 OUT0 0 N006 OUT1 N011 N009 N007 OUT0 MP_01 MP_02 N017 MP_03 MP_04 MP_05 MP_06 MP_07 N018 N016 MP_08 MP_09 N013 N012 NC_10 N014 N015 MP_11 MP_12 N019 N008 N010 0 OUT1 NC_13 N004 MP_14 N002 MP_15 N001 IN 0 0 MP_16 N003 MP_17 N005 MP_18 MP_19 NC_20 0 LTC7132 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.6 Vout_1=2.5 Ilim0_range=0 Ilim1_range=0 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m gm0=3m gm1=3m Rth0=5K Rth1=5K LowDcr=1 Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0 Sync=0
C7 N005 N003 .1µ
R3 N007 N005 931
C4 N009 0 220p
C6 N011 0 4700p
C10 N008 0 220p
C11 N010 0 2200p
R4 N016 N019 10K
R5 N018 N019 10K
R6 N017 N019 4.99K
C12 N019 0 1µ
R7 N013 0 17.8K
R8 N015 N013 20K
R9 N012 0 7.32K
R10 N015 N012 24.9K
R11 0 N014 11.3K
R13 N015 N014 24.9K
C13 N015 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran  1.2m startup
* Please read the following notes carefully since the model behaves differently from the user \ninterface for the LTC7132.\n \n(1) PMBus communication and memory address related functions and pins are not modeled.\n \n(2) Changes to parameter values while the simulation is running will not take effect unless the\nsimulation is stopped and restarted. This is different from the way the part operates which will\nrespond to the changes while running.  \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time-related parameters.\n \n(4)The following parameters can be defined by right-clicking on the LTC7132 symbol.\nThe nomenclature used here differs from the one in the data sheet. If any value of these parameters is\nset beyond the scope described in the data sheet, the resulting simulation will not be meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages; \n     Freq -- in Hz, sets switching frequency as one of values of 250k, 350k, 425k, 500k, 575k, 650k, \n                 750k,1000k. Freq_cfg pin needs to float or short to VDD25, to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree, set phase angle related to SYNC signal. \n                Certain combinations are restricted as in data sheet. Phase_cfg pin needs to float or \n                short to VDD25, to make the value be in effect;  \n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled; \n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively. Vout_cfgn pin needs to float or \n                short to VDD25, to make the value be in effect;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                for 4.096V (CH0) and 5.5V (CH1), value 1 for 2.75V;\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n               for low (45.14mV), and 1 for high (81.25mV);\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined by Ilimit_range. \n               It must be one of values: 0.5, 0.572, 0.642, 0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for forced continuous;\n     Fault_response -- sets the response mode of the LTC7132 to occuring faults:\n              0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the LTC7132 turns on after a fault;\n     gm -- transconductance of the error amplifier. It must be between 1m mho and 5.73m mho;\n     Rth -- Compensation resistor. It must be set between 0k ohms and 62k ohms;\n     LowDCR -- set to 1 if DCR is below 1m ohm and make RC = L/(5*DCR), set to 0 if DCR is above \n               1m ohm and make RC = L/DCR.
.lib LTC7132.sub
.backanno
.end
